US08071581B2
Intermediate 62: (3-Bromo-5-fluoro-quinolin-6-yl)-acetic acid hydrazide
A solution of (3-bromo-5-fluoro-quinolin-6-yl)-acetic acid (800 mg, 2.7 mmol) and hydrazine hydrate (98%, 2 mL) in methanol (15 mL) was heated to reflux for 1 h. The solvent was removed in vaco to obtain a white solid which was washed with methanol and dried to return the title compound (750 mg, 94%) as a white solid. 1H-NMR (DMSO-d6, 300 MHz): 9.34 (s, 1H), 8.996-9.00 (d, 1H), 8.72-8.73 (d, 1H), 7.85-7.88 (d, 1H), 7.73-7.79 (m, 1H), 4.26-4.27 (d, 2H), 3.64-3.66 (d, 2H); MS: m/z 299 [M+H+]+.

reactant | (3-bromo-5-fluoro-quinolin-6-yl)-acetic acid | 2.7 mmol, 800 mg | BrC=1C=NC2=CC=C(C(=C2C1)F)CC(=O)O | C11H7BrFNO2
reactant | hydrazine hydrate | 2 mL | O.NN
solvent | methanol | 15 mL | CO | CH4O
product | (3-Bromo-5-fluoro-quinolin-6-yl)-acetic acid hydrazide | BrC=1C=NC2=CC=C(C(=C2C1)F)CC(=O)NN | C11H9BrFN3O
